US08809342B2
A mixture of triphenylphosphine (1.34 g, 5.09 mmol), 3-methyl-1-(4′-(trifluoromethyl)biphenyl-4-yl)butan-1-ol (942 mg, 3.06 mmol), and methyl 6-hydroxynicotinate (0.390 g, 2.55 mmol) in tetrahydrofuran (30 mL) was stirred at room temperature for 0.5 hours. Diisopropyl azodicarboxylate (1.02 g, 5.09 mmol) was added dropwise. After consumption of the starting material, as indicated by TLC, the mixture was concentrated. Purification by column chromatography gave methyl 6-(3-methyl-1-(4′-(trifluoromethyl)biphenyl-4-yl)butoxy)nicotinate (400.0 mg, 36%). 1H NMR (400 MHz, CDCl3, δ): 8.69 (d, 1H), 8.04-8.06 (m, 1H), 7.56-7.61 (m, 4H), 7.42-7.48 (m, 4H), 6.72 (d, 1H), 6.20-6.24 (m, 1H), 3.78 (s, 3H), 1.94-2.01 (m, 1H), 1.58-1.72 9 (m, 2H), 0.89-0.94 (m, 6H).

reactant | triphenylphosphine | 5.09 mmol, 1.34 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | 3-methyl-1-(4′-(trifluoromethyl)biphenyl-4-yl)butan-1-ol | 3.06 mmol, 942 mg | CC(CC(O)C1=CC=C(C=C1)C1=CC=C(C=C1)C(F)(F)F)C | C18H19F3O
reactant | methyl 6-hydroxynicotinate | 2.55 mmol, 0.390 g | OC1=NC=C(C(=O)OC)C=C1 | C7H7NO3
reactant | Diisopropyl azodicarboxylate | 5.09 mmol, 1.02 g | N(=NC(=O)OC(C)C)C(=O)OC(C)C | C8H14N2O4
solvent | tetrahydrofuran | 30 mL | O1CCCC1 | C4H8O
product | methyl 6-(3-methyl-1-(4′-(trifluoromethyl)biphenyl-4-yl)butoxy)nicotinate | 400.0 mg, 36% | CC(CC(OC1=NC=C(C(=O)OC)C=C1)C1=CC=C(C=C1)C1=CC=C(C=C1)C(F)(F)F)C | C25H24F3NO3
